US09085555B2
A. Indolizine-1,3-dicarboxylic acid 1-benzyl ester
To a solution of indolizine-1,3-dicarboxylic acid 3-allyl ester 1-benzyl ester (300 mg, 0.895 mmol) in THF (6 mL) were added Pd(PPh3)4 (34.5 mg, 0.09 mmol) and morpholine (260 mg, 8.95 mmol). The reaction mixture was stirred at RT under nitrogen atmosphere for 30 min. The reaction mixture was diluted in EtOAC, extracted twice with HCl 1N and the combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated to give the desired compound which was used without further purification in the next step TLC, Rf (CH2Cl2/MeOH 9:1)=0.4: MS (LC/MS): 294.0 [M−H]−; tR (HPLC conditions a): 3.62 min.

reactant | indolizine-1,3-dicarboxylic acid 3-allyl ester 1-benzyl ester | 0.895 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)C=1C=C(N2C=CC=CC12)C(=O)OCC=C | C20H17NO4
reactant | morpholine | 8.95 mmol, 260 mg | N1CCOCC1 | C4H9NO
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.09 mmol, 34.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Indolizine-1,3-dicarboxylic acid 1-benzyl ester | C(C1=CC=CC=C1)OC(=O)C=1C=C(N2C=CC=CC12)C(=O)O | C17H13NO4
